US04526896
To a stirred solution of 2.8 g. (0.01 mole) of 5-tetrazolylmethyl-3-phenylbenzofuran in 100 ml. of chloroform and 20 ml. of dioxane is added dropwise 1.6 g. (0.01 mole) of bromine. After 45 minutes the mixture is cooled to 0° C., then the product is separated by filtration and washed with chloroform. Recrystallization from aqueous ethanol provides 2-bromo-3-phenyl-5-(1H-tetrazol-5yl)methylbenzofuran m.p. 215°-217° C.

reactant | 5-tetrazolylmethyl-3-phenylbenzofuran | 0.01 mole | N1N=NN=C1CC=1C=CC2=C(C(=CO2)C2=CC=CC=C2)C1 | C16H12N4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | bromine | 0.01 mole | BrBr | Br2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-bromo-3-phenyl-5-(1H-tetrazol-5yl)methylbenzofuran | BrC=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)CC2=NN=NN2 | C16H11BrN4O
